US08334456B2
Step 2: Preparation of 4,8-bis(10-phenyldecyl)benzo[1,2-b:4,5-b′]dithiophene.
To a 100 mL flask under nitrogen was added magnesium (486 mg, 20 mmol) and anhydrous THF (10 mL). The mixture was heated under reflux and 10-bromodecylbenzene (5.95 g, 20 mmol) was added dropwise. The reaction mixture was kept under reflex temperatures until all magnesium was consumed. Subsequently, 4,8-dihydrobenzo[1,2-b:4,5-b′]dithiophene-4,8-dione (1.1 g, 5.0 mmol) suspended in anhydrous THF (10 ml) was added dropwise. After refluxing for 3 hours more, it was cooled down to room temperature. SnCl2 solution (7.5 g in 19 mL 10% HCl) was slowly added dropwise and then the mixture was kept at 60° C. overnight. After cooling down, brine (25 mL) was added. The organic phase was separated and dried over Na2SO4. The residue after vacuum evaporation was purified by column chromatography with hexane/AcOEt 50:1 as eluent and gave a pale yellow oil (466 mg, yield 15%), which turned into a solid upon standing for a few days. 1H NMR (CDCl3, 500 MHz) δ=7.48 (d, J=6.0 Hz, 2H), 7.46 (d, J=5.0 Hz, 2H), 7.27-7.32 (m, 4H), 7.19 (d, J=7.0 Hz, 6H), 3.19 (t, J=8.0 Hz, 4H), 2.61 (t, J=7.5 Hz, 4H), 1.75-1.86 (m, 4H), 1.58-1.67 (m, 4H), 1.42-1.51 (m, 4H), 1.15-1.41 (m, 20H).

reactant | magnesium | 20 mmol, 486 mg | [Mg] | Mg
reactant | 10-bromodecylbenzene | 20 mmol, 5.95 g | BrCCCCCCCCCCC1=CC=CC=C1 | C16H25Br
reactant | 4,8-dihydrobenzo[1,2-b:4,5-b′]dithiophene-4,8-dione | 5.0 mmol, 1.1 g | S1C2=C(C=C1)C(C=1SC=CC1C2=O)=O | C10H4O2S2
reactant | SnCl2 | 19 mL, 7.5 g | Cl[Sn]Cl
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | brine | 25 mL | [Cl-].[Na+].O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4,8-bis(10-phenyldecyl)benzo[1,2-b:4,5-b′]dithiophene | 466 mg, yield 15% | C1(=CC=CC=C1)CCCCCCCCCCC1=C2C(SC=C2)=C(C2=C1SC=C2)CCCCCCCCCCC2=CC=CC=C2 | C42H54S2
